### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): define edge-connectivity

### LINKED ISSUE #31691: Edge-connectivity
Edge-connectivity is an important concept in graph theory, showing up among other things in the statement of Menger's theorem.

Your task, if you accept it, is to define
```lean
def IsEdgeReachable (k : ℕ) (u v : V) : Prop :=
  ∀ ⦃s : Set (Sym2 V)⦄, s.encard < k → (G.deleteEdges s).Reachable u v

def IsEdgeConnected (k : ℕ) : Prop := ∀ u v, G.IsEdgeReachable k u v
```
and prove basic facts such as
```lean
@[simp] lemma IsEdgeReachable.rfl : G.IsEdgeReachable k u u := sorry

@[simp] lemma IsEdgeReachable.trans (huv : G.IsEdgeReachable k u v) (hvw : G.IsEdgeReachable k v w) :
      G.IsEdgeReachable k u w := sorry

@[simp] lemma IsEdgeReachable.mono (hkl : k ≤ l) :
    G.IsEdgeReachable l u v → G.IsEdgeReachable k u v := sorry

@[simp] lemma IsEdgeReachable.zero : G.IsEdgeReachable 0 u v := sorry
@[simp] lemma isEdgeReachable_one : G.IsEdgeReachable 1 u v ↔ G.Reachable u v := sorry

lemma isEdgeReachable_succ :
    G.IsEdgeReachable (k + 1) u v ↔ ∀ e, (G.deleteEdges {e}).IsEdgeReachable k u v := sorry

lemma isEdgeConnected_succ :
    G.IsEdgeConnected (k + 1) ↔ ∀ e, (G.deleteEdges {e}).IsEdgeConnected k := sorry
```
and possibly more lemmas relating `G.IsEdgeConnected 2` and `G.IsAcyclic`. Finally, you could replace the `(G.deleteEdges {e}).Reachable u v` assumptions in `Combinatorics.SimpleGraph.Connectivity.Connected` with `G.IsEdgeReachable 2 u v`.

### PR DESCRIPTION
**Pull request by 0xTerencePrime**
This PR introduces k-edge-connectivity definitions for SimpleGraph, addressing #31691.

---

## Summary

This PR introduces k-edge-connectivity definitions for SimpleGraph, addressing #31691.

## Main Changes

- **New file:** `Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean`

### Definitions
- `IsEdgeReachable k u v`: vertices remain reachable after removing < k edges
- `IsEdgeConnected k`: graph is k-edge-connected

### Lemmas
- Basic properties: `rfl`, `symm`, `trans`, `mono`, `zero`
- `isEdgeReachable_one`: equivalence with standard `Reachable`
- `isEdgeConnected_one`: equivalence with `Preconnected`
- `isEdgeReachable_succ`: inductive characterization
- `isEdgeConnected_succ`: inductive characterization for graphs
- `isEdgeConnected_two`: equivalence with `Preconnected ∧ ¬∃ e, IsBridge e`

## Verification

- [x] `lake build` passes
- [x] `lake exe runLinter` passes

Closes #31691

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 1]
```diff
@@ -0,0 +1,153 @@
+/-
+Copyright (c) 2025 0xTerencePrime. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: 0xTerencePrime
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Could you please use your real name here?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 2]
```diff
@@ -0,0 +1,153 @@
...
+
+This file defines k-edge-connectivity for simple graphs.
+
+## Main definitions
+* `SimpleGraph.IsEdgeReachable`: Two vertices are `k`-edge-reachable if they remain reachable after
+  removing fewer than `k` edges.
+* `SimpleGraph.IsEdgeConnected`: A graph is `k`-edge-connected if any two vertices are
+  `k`-edge-reachable.
+-/
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:23]:
```suggestion

@[expose] public section

```
Then you don't need to prefix all declarations with `public`

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 1 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Hi @YaelDillies,

I have updated the PR to address your feedback:
1. Updated the author field with my real name (**Youheng Luo**).
2. Aligned the file with the new module system in **v4.27.0-rc1** (added the `module` keyword and wrapped declarations in an `@[expose] public section`).
3. Fixed the EOF whitespace and import issues.

All CI checks have now passed. Please let me know if there are any further improvements needed!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+public import Mathlib.Combinatorics.SimpleGraph.DeleteEdges
+public import Mathlib.Data.Set.Card
+
+/-!
+# Edge Connectivity
+
+This file defines k-edge-connectivity for simple graphs.
+
+## Main definitions
+* `SimpleGraph.IsEdgeReachable`: Two vertices are `k`-edge-reachable if they remain reachable after
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:18]:
```suggestion
## Main definitions

* `SimpleGraph.IsEdgeReachable`: Two vertices are `k`-edge-reachable if they remain reachable after
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 4]
```diff
@@ -0,0 +1,155 @@
...
+lemma IsEdgeReachable.symm {u v : V} (h : G.IsEdgeReachable k u v) :
+    G.IsEdgeReachable k v u :=
+  fun _ hk ↦ (h hk).symm
+
+@[trans]
+lemma IsEdgeReachable.trans {u v w : V} (h1 : G.IsEdgeReachable k u v)
+    (h2 : G.IsEdgeReachable k v w) : G.IsEdgeReachable k u w :=
+  fun _ hk ↦ (h1 hk).trans (h2 hk)
+
+lemma IsEdgeReachable.mono {k l : ℕ} (hkl : k ≤ l) {u v : V}
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: `IsEdgeReachable` is monotone in the graph argument and antitone in the numeric argument:
```suggestion
lemma IsEdgeReachable.mono {G' : SimpleGraph V} (hle : G ≤ G') {u v : V}
    (h : G.IsEdgeReachable k u v) : G'.IsEdgeReachable k u v :=
  fun _ hk ↦ h hk |>.mono <| deleteEdges_mono hle

lemma IsEdgeReachable.anti {k l : ℕ} (hkl : k ≤ l) {u v : V}
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 5]
```diff
@@ -0,0 +1,155 @@
...
+    (h : G.IsEdgeReachable l u v) : G.IsEdgeReachable k u v :=
+  fun _ hk ↦ h (lt_of_lt_of_le hk (Nat.cast_le.mpr hkl))
+
+@[simp]
+lemma IsEdgeReachable.zero {u v : V} : G.IsEdgeReachable 0 u v :=
+  fun _ hk ↦ absurd (zero_le _) (not_le_of_gt hk)
+
+@[simp]
+lemma isEdgeConnected_zero : G.IsEdgeConnected 0 :=
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
lemma IsEdgeConnected.zero : G.IsEdgeConnected 0 :=
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 6]
```diff
@@ -0,0 +1,155 @@
...
+  constructor
+  · intro h
+    specialize (@h ∅) (by simp)
+    rwa [deleteEdges_empty] at h
+  · intro h s hs
+    have : s = ∅ := by
+      rw [← Set.encard_eq_zero]
+      exact ENat.lt_one_iff_eq_zero.mp hs
+    subst this
+    rwa [deleteEdges_empty]
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
lemma isEdgeReachable_one {u v : V} : G.IsEdgeReachable 1 u v ↔ G.Reachable u v := by
  refine ⟨fun h ↦ G.deleteEdges_empty ▸ h (by simp), fun h s hs ↦ ?_⟩
  rwa [Set.encard_eq_zero.mp <| ENat.lt_one_iff_eq_zero.mp hs, deleteEdges_empty]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 7]
```diff
@@ -0,0 +1,155 @@
...
+public import Mathlib.Data.Set.Card
+
+/-!
+# Edge Connectivity
+
+This file defines k-edge-connectivity for simple graphs.
+
+## Main definitions
+* `SimpleGraph.IsEdgeReachable`: Two vertices are `k`-edge-reachable if they remain reachable after
+  removing fewer than `k` edges.
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  removing strictly fewer than `k` edges.
```
for clarity

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 5 above)
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
protected lemma IsEdgeConnected.zero : G.IsEdgeConnected 0 :=
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 8]
```diff
@@ -0,0 +1,155 @@
...
+lemma IsEdgeReachable.trans {u v w : V} (h1 : G.IsEdgeReachable k u v)
+    (h2 : G.IsEdgeReachable k v w) : G.IsEdgeReachable k u w :=
+  fun _ hk ↦ (h1 hk).trans (h2 hk)
+
+lemma IsEdgeReachable.mono {k l : ℕ} (hkl : k ≤ l) {u v : V}
+    (h : G.IsEdgeReachable l u v) : G.IsEdgeReachable k u v :=
+  fun _ hk ↦ h (lt_of_lt_of_le hk (Nat.cast_le.mpr hkl))
+
+@[simp]
+lemma IsEdgeReachable.zero {u v : V} : G.IsEdgeReachable 0 u v :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
protected lemma IsEdgeReachable.zero {u v : V} : G.IsEdgeReachable 0 u v :=
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 4 above)
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Does
```suggestion
@[gcongr]
lemma IsEdgeReachable.mono {k l : ℕ} (hkl : k ≤ l) {u v : V}
```
work?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 9]
```diff
@@ -0,0 +1,155 @@
...
+
+/-- A graph is `k`-edge-connected if any two vertices are `k`-edge-reachable. -/
+def IsEdgeConnected (k : ℕ) : Prop :=
+  ∀ u v : V, G.IsEdgeReachable k u v
+
+variable {G} {k : ℕ}
+
+@[simp]
+lemma IsEdgeReachable.rfl (u : V) : G.IsEdgeReachable k u u :=
+  fun _ _ ↦ Reachable.refl _
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  fun _ _ ↦ .refl _
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 10]
```diff
@@ -0,0 +1,155 @@
...
+    (h : G.IsEdgeReachable l u v) : G.IsEdgeReachable k u v :=
+  fun _ hk ↦ h (lt_of_lt_of_le hk (Nat.cast_le.mpr hkl))
+
+@[simp]
+lemma IsEdgeReachable.zero {u v : V} : G.IsEdgeReachable 0 u v :=
+  fun _ hk ↦ absurd (zero_le _) (not_le_of_gt hk)
+
+@[simp]
+lemma isEdgeConnected_zero : G.IsEdgeConnected 0 :=
+  fun _ _ ↦ IsEdgeReachable.zero
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  fun _ _ ↦ .zero
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 11]
```diff
@@ -0,0 +1,155 @@
...
+
+@[simp]
+lemma isEdgeReachable_one {u v : V} : G.IsEdgeReachable 1 u v ↔ G.Reachable u v := by
+  constructor
+  · intro h
+    specialize (@h ∅) (by simp)
+    rwa [deleteEdges_empty] at h
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Does
```suggestion
    simpa using h (s := ∅)
```
work?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 12]
```diff
@@ -0,0 +1,155 @@
...
+  · intro h s hs
+    have : s = ∅ := by
+      rw [← Set.encard_eq_zero]
+      exact ENat.lt_one_iff_eq_zero.mp hs
+    subst this
+    rwa [deleteEdges_empty]
+
+lemma isEdgeConnected_one : G.IsEdgeConnected 1 ↔ G.Preconnected :=
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: simp?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 13]
```diff
@@ -0,0 +1,155 @@
...
+  forall_congr' fun _ ↦ forall_congr' fun _ ↦ isEdgeReachable_one
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
lemma isEdgeConnected_one : G.IsEdgeConnected 1 ↔ G.Preconnected := by
  simp [IsEdgeConnected, Preconnected]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 14]
```diff
@@ -0,0 +1,155 @@
...
+
+lemma isEdgeConnected_succ {k : ℕ} :
+    G.IsEdgeConnected (k + 1) ↔
+      G.IsEdgeConnected 1 ∧ ∀ e ∈ G.edgeSet, (G.deleteEdges {e}).IsEdgeConnected k := by
+  simp only [IsEdgeConnected, isEdgeReachable_succ, IsEdgeReachable.zero]
+  exact ⟨fun h ↦ ⟨fun u v ↦ ⟨(h u v).1, fun _ _ ↦ trivial⟩, fun e he u v ↦ (h u v).2 e he⟩,
+         fun ⟨h1, h_succ⟩ u v ↦ ⟨(h1 u v).1, fun e he ↦ h_succ e he u v⟩⟩
+
+lemma isEdgeConnected_two :
+    G.IsEdgeConnected 2 ↔ G.Preconnected ∧ ¬∃ e, G.IsBridge e := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
    G.IsEdgeConnected 2 ↔ G.Preconnected ∧ ∀ e, ¬ G.IsBridge e := by
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 15]
```diff
@@ -0,0 +1,155 @@
...
+        (Set.encard_diff_singleton_add_one (s := s') he).symm
+      rw [hsub] at hk'
+      exact (ENat.add_lt_add_iff_right ENat.one_ne_top).mp hk'
+
+lemma isEdgeConnected_succ {k : ℕ} :
+    G.IsEdgeConnected (k + 1) ↔
+      G.IsEdgeConnected 1 ∧ ∀ e ∈ G.edgeSet, (G.deleteEdges {e}).IsEdgeConnected k := by
+  simp only [IsEdgeConnected, isEdgeReachable_succ, IsEdgeReachable.zero]
+  exact ⟨fun h ↦ ⟨fun u v ↦ ⟨(h u v).1, fun _ _ ↦ trivial⟩, fun e he u v ↦ (h u v).2 e he⟩,
+         fun ⟨h1, h_succ⟩ u v ↦ ⟨(h1 u v).1, fun e he ↦ h_succ e he u v⟩⟩
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  grind
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 16]
```diff
@@ -0,0 +1,155 @@
...
+  · rintro ⟨h_pre, h_bridge⟩ u v
+    rw [isEdgeReachable_succ]
+    simp only [isEdgeReachable_one]
+    constructor
+    · exact h_pre u v
+    · intro e he
+      induction e using Sym2.ind with | h x y =>
+        have h_not_bridge : ¬ G.IsBridge s(x, y) := fun hb ↦ h_bridge ⟨s(x, y), hb⟩
+        have h_conn : G.Connected := { preconnected := h_pre, nonempty := ⟨x⟩ }
+        exact (h_conn.connected_delete_edge_of_not_isBridge h_not_bridge).preconnected u v
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
lemma isEdgeConnected_two : G.IsEdgeConnected 2 ↔ G.Preconnected ∧ ¬∃ e, G.IsBridge e := by
  refine ⟨fun h ↦ ⟨fun u v ↦ isEdgeReachable_one.mp <| .anti (Nat.le_succ 1) (h u v), ?_⟩, ?_⟩
  · rintro ⟨⟨⟩, he_bridge⟩
    exact he_bridge.right <| h _ _ <| Set.encard_singleton _ ▸ Nat.one_lt_ofNat
  · refine fun ⟨h_pre, h_bridge⟩ u v ↦ isEdgeReachable_succ.mpr ⟨h_pre u v, ?_⟩
    · rintro ⟨⟩ he
      apply isEdgeReachable_one.mpr
      have h_conn : G.Connected := { preconnected := h_pre, nonempty := ⟨‹_›⟩ }
      exact h_conn.connected_delete_edge_of_not_isBridge (h_bridge ⟨_, ·⟩) |>.preconnected ..
```
and if you change `Connected.connected_delete_edge_of_not_isBridge` to only require `Preconnected` you can avoid the `have h_conn`

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 17]
```diff
@@ -0,0 +1,155 @@
+/-
+Copyright (c) 2025 Youheng Luo. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Youheng Luo
+-/
+module
+
+public import Mathlib.Combinatorics.SimpleGraph.Connectivity.Connected
+public import Mathlib.Combinatorics.SimpleGraph.DeleteEdges
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 14 above)
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: I think we should also have a characterization of bridges:
```lean
lemma isBridge_iff_adj_and_not_isEdgeConnected_two {u v : V} :
    G.IsBridge s(u, v) ↔ G.Adj u v ∧ ¬G.IsEdgeReachable 2 u v := by
  refine ⟨fun h ↦ ⟨h.left, fun hc ↦ ?_⟩, fun ⟨hadj, hc⟩ ↦ ?_⟩
  · exact isBridge_iff.mp h |>.right <| hc <| Set.encard_singleton _ |>.trans_lt Nat.one_lt_ofNat
  · refine isBridge_iff.mpr ⟨hadj, fun hr ↦ hc fun s hs₂ ↦ ?_⟩
    by_cases! hs₁ : s.encard ≠ (1 : ℕ)
    · apply G.isEdgeReachable_one.mpr hadj.reachable
      exact lt_of_le_of_ne (ENat.lt_coe_add_one_iff.mp hs₂) hs₁
    obtain ⟨x, rfl⟩ := Set.encard_eq_one (s := s).mp hs₁
    by_cases hx : s(u, v) = x
    · exact hx ▸ hr
    exact deleteEdges_adj.mpr ⟨hadj, hx⟩ |>.reachable
```

**Review by SnirBroshi — COMMENTED** [review]
Looks good!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 13 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Personally I prefer the current version, it makes it clear that all we're doing is applying "forall" to both sides of `isEdgeReachable_one`

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 11 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: It does work, also `simpa using @h ∅` or `exact G.deleteEdges_empty ▸ h (by simp)`, but it's possible to [golf further](https://github.com/leanprover-community/mathlib4/pull/32870#discussion_r2637280928)

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: The point of my version is that it is somewhat robust to definition changes: It doesn't assume anything about the shape of the bodies of `IsEdgeConnected` and `Preconnected`, merely that we've done our job and proved the lemmas about previous definitions.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Please let me know here!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Please do something here

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 4 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Yes, `@[gcongr]` works perfectly. I renamed the numeric lemma to `anti` following Snir's suggestion to be more mathematically accurate (as it is antitonic in $k$), and kept the `mono` name for the graph argument. Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 12 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Yes, using `simp [IsEdgeConnected, Preconnected]` works perfectly and is much cleaner. I have updated the proof accordingly. Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 3 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:18]: Done. Added the blank line after the header for proper markdown rendering. Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 15 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Applied. `grind` works perfectly here and significantly simplifies the proof logic. Thanks @SnirBroshi!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 16 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Thanks @SnirBroshi! I have used your suggested code block directly. It is much more elegant and concise than my original version.

Resolved!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 17 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Removed. I verified locally that it's redundant. Thanks for catching that!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 14 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: I have added the characterization lemma as suggested. Thank you for the feedback!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 18]
```diff
@@ -0,0 +1,150 @@
...
+lemma IsEdgeReachable.symm {u v : V} (h : G.IsEdgeReachable k u v) :
+    G.IsEdgeReachable k v u :=
+  fun _ hk ↦ (h hk).symm
+
+@[trans]
+lemma IsEdgeReachable.trans {u v w : V} (h1 : G.IsEdgeReachable k u v)
+    (h2 : G.IsEdgeReachable k v w) : G.IsEdgeReachable k u w :=
+  fun _ hk ↦ (h1 hk).trans (h2 hk)
+
+lemma IsEdgeReachable.mono {G' : SimpleGraph V} (hle : G ≤ G') {u v : V}
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
@[gcongr, mono]
lemma IsEdgeReachable.mono {G' : SimpleGraph V} (hle : G ≤ G') {u v : V}
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 19]
```diff
@@ -0,0 +1,150 @@
...
+@[simp]
+protected lemma IsEdgeConnected.zero : G.IsEdgeConnected 0 :=
+  fun _ _ ↦ .zero
+
+@[simp]
+lemma isEdgeReachable_one {u v : V} : G.IsEdgeReachable 1 u v ↔ G.Reachable u v := by
+  refine ⟨fun h ↦ G.deleteEdges_empty ▸ h (by simp), fun h s hs ↦ ?_⟩
+  rwa [Set.encard_eq_zero.mp <| ENat.lt_one_iff_eq_zero.mp hs, deleteEdges_empty]
+
+lemma isEdgeConnected_one : G.IsEdgeConnected 1 ↔ G.Preconnected := by
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:68]: I think Yaël [meant](https://github.com/leanprover-community/mathlib4/pull/32870#discussion_r2637295052) that you should also tag it as simp:
```suggestion
@[simp]
lemma isEdgeConnected_one : G.IsEdgeConnected 1 ↔ G.Preconnected := by
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 20]
```diff
@@ -0,0 +1,150 @@
...
+/-- A graph is 2-edge-connected iff it is preconnected and has no bridges. -/
+lemma isEdgeConnected_two : G.IsEdgeConnected 2 ↔ G.Preconnected ∧ ¬∃ e, G.IsBridge e := by
+  refine ⟨fun h ↦ ⟨fun u v ↦ isEdgeReachable_one.mp <| .anti (Nat.le_succ 1) (h u v), ?_⟩, ?_⟩
+  · rintro ⟨⟨⟩, he_bridge⟩
+    exact he_bridge.right <| h _ _ <| Set.encard_singleton _ ▸ Nat.one_lt_ofNat
+  · refine fun ⟨h_pre, h_bridge⟩ u v ↦ isEdgeReachable_succ.mpr ⟨h_pre u v, ?_⟩
+    · rintro ⟨⟩ he
+      apply isEdgeReachable_one.mpr
+      have h_conn : G.Connected := { preconnected := h_pre, nonempty := ⟨‹_›⟩ }
+      exact h_conn.connected_delete_edge_of_not_isBridge (h_bridge ⟨_, ·⟩) |>.preconnected ..
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: You changed [this](https://github.com/leanprover-community/mathlib4/pull/32870#discussion_r2637295473) and then changed it back when you applied my golf
```suggestion
lemma isEdgeConnected_two : G.IsEdgeConnected 2 ↔ G.Preconnected ∧ ∀ e, ¬G.IsBridge e := by
  refine ⟨fun h ↦ ⟨fun u v ↦ isEdgeReachable_one.mp <| .anti (Nat.le_succ 1) (h u v), ?_⟩, ?_⟩
  · rintro ⟨⟩ he_bridge
    exact he_bridge.right <| h _ _ <| Set.encard_singleton _ ▸ Nat.one_lt_ofNat
  · refine fun ⟨h_pre, h_bridge⟩ u v ↦ isEdgeReachable_succ.mpr ⟨h_pre u v, ?_⟩
    · rintro ⟨⟩ he
      apply isEdgeReachable_one.mpr
      have h_conn : G.Connected := { preconnected := h_pre, nonempty := ⟨‹_›⟩ }
      exact h_conn.connected_delete_edge_of_not_isBridge (h_bridge _ ·) |>.preconnected ..
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 18 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Please let's stop tagging things with `mono`

Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: I don't know the details of these, and where to find documentation about them, I was basing this on seeing many `mono` tags next to `gcongr`

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 20 above)
Comment (SnirBroshi) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: I just realized the last line can now also be:
```lean
exact (h_conn.connected_delete_edge_of_not_isBridge <| h_bridge _).preconnected ..
```
which I personally prefer, but up to you

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 19 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:68]: Added `@[simp]` as suggested. Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 20 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Corrected. I have restored the universal quantifier version and applied the latest golfed proof. Thanks for catching that, @SnirBroshi!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 18 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Thanks for the discussion! Since @YaelDillies clarified that `mono` tags are being phased out, I've updated the code to only use `@[gcongr]`. This also helps me understand the current Mathlib best practices. Resolved!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 21]
```diff
@@ -0,0 +1,152 @@
...
+          by_cases h : x = e <;> simp [h, hx]
+      nth_rw 1 [← h_ins]
+      rw [Set.insert_eq, ← deleteEdges_deleteEdges]
+      apply h_succ e he_edge
+      have : s'.encard ≤ s.encard := Set.encard_mono Set.inter_subset_left
+      have hk' : s'.encard < k + 1 := this.trans_lt hk
+      have hsub : s'.encard = (s' \ {e}).encard + 1 :=
+        (Set.encard_diff_singleton_add_one (s := s') he).symm
+      rw [hsub] at hk'
+      exact (ENat.add_lt_add_iff_right ENat.one_ne_top).mp hk'
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: One final golf:
```suggestion
lemma isEdgeReachable_succ {k : ℕ} {u v : V} :
    G.IsEdgeReachable (k + 1) u v ↔
      G.Reachable u v ∧ ∀ e ∈ G.edgeSet, (G.deleteEdges {e}).IsEdgeReachable k u v := by
  refine ⟨fun h ↦ ⟨G.deleteEdges_empty ▸ h (by simp), fun e he s hk ↦ ?_⟩, ?_⟩
  · rw [deleteEdges_deleteEdges, Set.union_comm]
    apply h
    grw [Set.encard_union_le, Set.encard_singleton]
    exact ENat.add_lt_add_iff_right ENat.one_ne_top |>.mpr hk
  · intro ⟨h_one, h_succ⟩ s hk
    rw [G.deleteEdges_eq_inter_edgeSet s]
    rcases (s ∩ G.edgeSet).eq_empty_or_nonempty with h_empty | ⟨e, he⟩
    · simpa [h_empty]
    · rw [← Set.insert_diff_self_of_mem he, Set.insert_eq, ← deleteEdges_deleteEdges]
      refine h_succ e he.right <| ENat.add_lt_add_iff_right ENat.one_ne_top |>.mp ?_
      rw [Set.encard_diff_singleton_add_one he]
      exact Set.encard_mono Set.inter_subset_left |>.trans_lt hk
```

Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Applied this final golf. The `grw` tactic and `Set.insert_diff_self_of_mem` make the proof significantly more elegant. Thanks @SnirBroshi!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 22]
```diff
@@ -0,0 +1,130 @@
...
+  refine ⟨fun h ↦ ⟨fun u v ↦ isEdgeReachable_one.mp <| .anti (Nat.le_succ 1) (h u v), ?_⟩, ?_⟩
+  · rintro ⟨⟩ he_bridge
+    exact he_bridge.right <| h _ _ <| Set.encard_singleton _ ▸ Nat.one_lt_ofNat
+  · refine fun ⟨h_pre, h_bridge⟩ u v ↦ isEdgeReachable_succ.mpr ⟨h_pre u v, ?_⟩
+    · rintro ⟨⟩ he
+      apply isEdgeReachable_one.mpr
+      have h_conn : G.Connected := { preconnected := h_pre, nonempty := ⟨‹_›⟩ }
+      exact h_conn.connected_delete_edge_of_not_isBridge (h_bridge _ ·) |>.preconnected ..
+
+/-- An edge is a bridge iff its endpoints are adj and not 2-edge-reachable. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
/-- An edge is a bridge iff its endpoints are adjacent and not 2-edge-reachable. -/
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 23]
```diff
@@ -0,0 +1,130 @@
...
+    rcases (s ∩ G.edgeSet).eq_empty_or_nonempty with h_empty | ⟨e, he⟩
+    · simpa [h_empty]
+    · rw [← Set.insert_diff_self_of_mem he, Set.insert_eq, ← deleteEdges_deleteEdges]
+      refine h_succ e he.right <| ENat.add_lt_add_iff_right ENat.one_ne_top |>.mp ?_
+      rw [Set.encard_diff_singleton_add_one he]
+      exact Set.encard_mono Set.inter_subset_left |>.trans_lt hk
+
+lemma isEdgeConnected_succ {k : ℕ} :
+    G.IsEdgeConnected (k + 1) ↔
+      G.IsEdgeConnected 1 ∧ ∀ e ∈ G.edgeSet, (G.deleteEdges {e}).IsEdgeConnected k := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
      G.Preconnected ∧ ∀ e ∈ G.edgeSet, (G.deleteEdges {e}).IsEdgeConnected k := by
```
but also isn't the following true?
```suggestion
      ∀ e ∈ G.edgeSet, (G.deleteEdges {e}).IsEdgeConnected k := by
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 22 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Done. Changed "adj" to "adjacent" for formal clarity.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Ah probably you need #32583 for that later statement to be true!

Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: I have updated the lemma statement to use `Preconnected` as you suggested. Applying this change required a manual proof to reorder the quantifiers, as the previous automation (like `grind`) was failing with this new formulation. Regarding your point about #32583, I agree, I found that for the k=0 case, a disconnected graph with edges would vacuously satisfy the RHS but not the LHS, so the `Preconnected` atom is still necessary here. Resolved!

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: `isEdgeConnected_succ` is uninteresting for `k := 0`, so what about you remove the `G.Preconnected` and instead assume `k \ne 0`?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 24]
```diff
@@ -0,0 +1,130 @@
...
+
+@[simp]
+protected lemma IsEdgeConnected.zero : G.IsEdgeConnected 0 :=
+  fun _ _ ↦ .zero
+
+@[simp]
+lemma isEdgeReachable_one {u v : V} : G.IsEdgeReachable 1 u v ↔ G.Reachable u v := by
+  refine ⟨fun h ↦ G.deleteEdges_empty ▸ h (by simp), fun h s hs ↦ ?_⟩
+  rwa [Set.encard_eq_zero.mp <| ENat.lt_one_iff_eq_zero.mp hs, deleteEdges_empty]
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:66]: Could you provide
```suggestion

lemma IsEdgeReachable.reachable (hk : k \ne 0) (huv : G.IsEdgeReachable k u v) : G.Reachable u v

```
and similarly for `IsEdgeConnected`?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 25]
```diff
@@ -0,0 +1,119 @@
...
+variable (G k u v) in
+/-- Two vertices are `k`-edge-reachable if they remain reachable after removing strictly fewer than
+`k` edges. -/
+def IsEdgeReachable (k : ℕ) (u v : V) : Prop :=
+  ∀ ⦃s : Set (Sym2 V)⦄, s.encard < k → (G.deleteEdges s).Reachable u v
+
+variable (G k) in
+/-- A graph is `k`-edge-connected if any two vertices are `k`-edge-reachable. -/
+def IsEdgeConnected (k : ℕ) : Prop := ∀ u v, G.IsEdgeReachable k u v
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
variable (G k u v) in
/-- Two vertices are `k`-edge-reachable if they remain reachable after removing strictly fewer than
`k` edges. -/
def IsEdgeReachable : Prop :=
  ∀ ⦃s : Set (Sym2 V)⦄, s.encard < k → (G.deleteEdges s).Reachable u v

variable (G k) in
/-- A graph is `k`-edge-connected if any two vertices are `k`-edge-reachable. -/
def IsEdgeConnected : Prop := ∀ u v, G.IsEdgeReachable k u v
```
@YaelDillies is this a typo or do you prefer definitions state all their variables?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 26]
```diff
@@ -0,0 +1,119 @@
...
+/-- A graph is 2-edge-connected iff it is preconnected and has no bridges. -/
+lemma isEdgeConnected_two : G.IsEdgeConnected 2 ↔ G.Preconnected ∧ ∀ e, ¬G.IsBridge e := by
+  refine ⟨fun h ↦ ⟨fun u v ↦ isEdgeReachable_one.mp <| .anti (Nat.le_succ 1) (h u v), ?_⟩, ?_⟩
+  · rintro ⟨⟩ he_bridge
+    exact he_bridge.right <| h _ _ <| Set.encard_singleton _ ▸ Nat.one_lt_ofNat
+  · refine fun ⟨h_pre, h_bridge⟩ u v ↦ isEdgeReachable_succ.mpr ⟨h_pre u v, ?_⟩
+    · rintro ⟨⟩ he
+      apply isEdgeReachable_one.mpr
+      have h_conn : G.Connected := { preconnected := h_pre, nonempty := ⟨‹_›⟩ }
+      exact h_conn.connected_delete_edge_of_not_isBridge (h_bridge _ ·) |>.preconnected ..
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
      exact (h_conn.connected_delete_edge_of_not_isBridge <| h_bridge _).preconnected ..
```
Since we're golfing again I'll repeat this suggestion

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 25 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Whoops that was a typo indeed

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 27]
```diff
@@ -0,0 +1,119 @@
...
+    · rw [← Set.insert_diff_self_of_mem he, Set.insert_eq, ← deleteEdges_deleteEdges]
+      refine h_succ e he.right <| ENat.add_lt_add_iff_right ENat.one_ne_top |>.mp ?_
+      rw [Set.encard_diff_singleton_add_one he]
+      exact Set.encard_mono Set.inter_subset_left |>.trans_lt hk
+
+lemma isEdgeConnected_succ {k : ℕ} :
+    G.IsEdgeConnected (k + 1) ↔
+      G.Preconnected ∧ ∀ e ∈ G.edgeSet, (G.deleteEdges {e}).IsEdgeConnected k := by
+  simp_rw [IsEdgeConnected, isEdgeReachable_succ, forall_and, Preconnected]
+  refine and_congr_right (fun _ => ⟨fun h e he u v => h u v e he, fun h u v e he => h e he u v⟩)
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
lemma isEdgeConnected_succ {k : ℕ} :
    G.IsEdgeConnected (k + 1) ↔
      G.Preconnected ∧ ∀ e ∈ G.edgeSet, (G.deleteEdges {e}).IsEdgeConnected k := by
  simp [IsEdgeConnected, isEdgeReachable_succ, Preconnected]
  grind
```
I'm not sure what you meant by "automation (like grind) was failing with this new formulation", it seems to work

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 28]
```diff
@@ -0,0 +1,119 @@
...
+
+@[simp]
+lemma isEdgeReachable_one : G.IsEdgeReachable 1 u v ↔ G.Reachable u v := by
+  simp [IsEdgeReachable, ENat.lt_one_iff_eq_zero]
+
+@[simp]
+lemma isEdgeConnected_one : G.IsEdgeConnected 1 ↔ G.Preconnected := by
+  simp [IsEdgeConnected, Preconnected]
+
+lemma isEdgeReachable_succ :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
lemma isEdgeReachable_add_one :
```
I just found out about [this Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Naming.20convention.3A.20succ.20vs.2E.20add_one/with/537179804)

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 23 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: I've kept `G.Preconnected` for now because it allows the lemma to remain a clean `↔` that also covers the base case $k=0$. However, since you mentioned it might be uninteresting, I'm happy to add the $k \ne 0$ condition instead if you feel that's more aligned with Mathlib's style. What do you think?

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 24 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:66]: I have added `IsEdgeReachable.reachable` and `IsEdgeConnected.preconnected` at the end of the file. Thanks for the guidance!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 28 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Done. Renamed to `isEdgeReachable_add_one` to match the latest conventions.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 27 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Yes, `grind` works perfectly now. I suspect the previous failure was due to recursion depth issues during quantifier expansion, but the current simplified formulation (incorporating Yaël's recent golfs and the switch to `Preconnected`) seems to have resolved the bottleneck. Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 26 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Applied this golf. Using `<|` is indeed more idiomatic here.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 25 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Done. Removed the redundant variables from the definition bodies to align with the `variable ... in` syntax. Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 29]
```diff
@@ -0,0 +1,125 @@
...
+    by_cases hx : s(u, v) = x
+    · exact hx ▸ hr
+    exact deleteEdges_adj.mpr ⟨hadj, hx⟩ |>.reachable
+
+lemma IsEdgeReachable.reachable (hk : k ≠ 0) (huv : G.IsEdgeReachable k u v) : G.Reachable u v :=
+  isEdgeReachable_one.mp (huv.anti (Nat.one_le_iff_ne_zero.mpr hk))
+
+lemma IsEdgeConnected.preconnected (hk : k ≠ 0) (h : G.IsEdgeConnected k) : G.Preconnected :=
+  fun u v ↦ (h u v).reachable hk
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:128]:
```suggestion
lemma IsEdgeConnected.preconnected (hk : k ≠ 0) (h : G.IsEdgeConnected k) : G.Preconnected :=
  fun u v ↦ (h u v).reachable hk

lemma IsEdgeConnected.connected [Nonempty V] (hk : k ≠ 0) (h : G.IsEdgeConnected k) :
    G.Connected where

```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 29 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean:128]: I have implemented `IsEdgeConnected.connected` using the `where` syntax as you suggested, filling in both the `preconnected` and `nonempty` fields. The local build is now clean. Thanks!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 30]
```diff
@@ -0,0 +1,130 @@
...
+  · intro ⟨h_one, h_succ⟩ s hk
+    rw [G.deleteEdges_eq_inter_edgeSet s]
+    rcases (s ∩ G.edgeSet).eq_empty_or_nonempty with h_empty | ⟨e, he⟩
+    · simpa [h_empty]
+    · rw [← Set.insert_diff_self_of_mem he, Set.insert_eq, ← deleteEdges_deleteEdges]
+      refine h_succ e he.right <| ENat.add_lt_add_iff_right ENat.one_ne_top |>.mp ?_
+      rw [Set.encard_diff_singleton_add_one he]
+      exact Set.encard_mono Set.inter_subset_left |>.trans_lt hk
+
+lemma isEdgeConnected_succ {k : ℕ} :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
lemma isEdgeConnected_add_one {k : ℕ} :
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: The latter would be more aligned with mathlib, indeed. For `k = 0`, `isEdgeConnected_one` already provides a better simplification

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 30 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Done. Renamed as suggested to follow the naming convention.

**Review by SnirBroshi — APPROVED** [review]
Thanks!

btw the current build will probably time out in 3.5 hours, there's some unknown bug there (see [#mathlib4 > slow linting step CI? @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/slow.20linting.20step.20CI.3F/near/565018871)), but retriggerring the build should fix it (click "Update branch" below)

**Comment by 0xTerencePrime** [comment]
Thanks for the heads-up regarding the CI timeout bug, @SnirBroshi! I have updated the branch as suggested to re-trigger the build.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 31]
```diff
@@ -0,0 +1,130 @@
...
+lemma IsEdgeReachable.reachable (hk : k ≠ 0) (huv : G.IsEdgeReachable k u v) : G.Reachable u v :=
+  isEdgeReachable_one.mp (huv.anti (Nat.one_le_iff_ne_zero.mpr hk))
+
+lemma IsEdgeConnected.preconnected (hk : k ≠ 0) (h : G.IsEdgeConnected k) : G.Preconnected :=
+  fun u v ↦ (h u v).reachable hk
+
+lemma IsEdgeConnected.connected [Nonempty V] (hk : k ≠ 0) (h : G.IsEdgeConnected k) :
+    G.Connected where
+  preconnected := h.preconnected hk
+  nonempty := ‹_›
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
```

Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Done.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 23 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: I've kept `G.Preconnected` because the equivalence fails for discrete graphs with no edges (RHS would be vacuously true). I have also cleaned up the redundant `{k : ℕ}` variable declaration here.

Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: What about
```suggestion
      ∀ e, (G.deleteEdges {e}).IsEdgeConnected k := by
```
then?

Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: I have fully adopted the suggestion to use `∀ e : Sym2 V` and `k ≠ 0`. This allows for a very clean statement as the connectivity requirement is now handled implicitly. I used a `by_cases` argument to bridge the logic for non-edges and verified it locally. Thanks for the clever suggestion!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean [hunk 32]
```diff
@@ -0,0 +1,142 @@
...
+        exact ⟨(·.1), fun ha ↦ ⟨ha, fun heq ↦ he (heq ▸ ha)⟩⟩
+      rw [hG]
+      exact h_reach.anti (k.le_add_right 1)
+  · rw [isEdgeReachable_add_one]
+    constructor
+    · let e := s(u, v)
+      have h1 := (h e u v).anti (Nat.one_le_iff_ne_zero.mpr hk)
+      exact (isEdgeReachable_one.mp h1).mono (deleteEdges_le _)
+    · intro e he
+      exact h e u v
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]:
```suggestion
  refine ⟨fun h e u v ↦ ?_, fun h u v ↦ isEdgeReachable_add_one.mpr ⟨?_, fun e _ ↦ h e u v⟩⟩
  · by_cases he : e ∈ G.edgeSet
    · exact (isEdgeReachable_add_one.mp <| h u v).right e he
    · rw [G.deleteEdges_eq_self.mpr <| Set.disjoint_singleton_right.mpr he]
      exact h u v |>.anti <| k.le_succ
  · refine isEdgeReachable_one.mp ?_ |>.mono <| G.deleteEdges_le {s(u, v)}
    exact h _ u v |>.anti <| k.one_le_iff_ne_zero.mpr hk
```

**Review by SnirBroshi — COMMENTED** [review]
Nice! Here's a golf for the new result

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean (hunk 32 above)
Comment (0xTerencePrime) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/EdgeConnectivity.lean]: Applied, thanks!

**Comment by jcommelin** [comment]
I think I've already requested this on another PR: please reduce the AI generated commit messages. We don't need the "Verification" stuff at all. We have CI for that.
And the rest of the message is mostly directly readable from the diff.

The 1-line "Summary" is good.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
